US05283241
A solution of 4-bromomethyl-2'-nitro-1,1'-biphenyl (7.27 g, 24.8 mmol) in acetic acid (50 mL) was treated with potassium acetate (4.88 g, 49.1 mmol). The reaction mixture was heated at reflux for 2 hours. After cooling, the reaction mixture was filtered and the precipitate was washed with acetic acid (2×). The filtrate was evaporated under vacuum and the residue was triturated with ethyl ether. The ether layer was washed consecutively with water, saturated aqueous sodium bicarbonate (3×) and water. The organic layer was dried over magnesium sulfate, filtered and evaporated under vacuum. The residue was dissolved in methanol (50 mL) and treated with a 6N methanolic potassium hydroxide solution (5 mL). After stirring for 1 hour at room temperature, thin layer chromatography indicated the absence of starting material. The reaction mixture was acidified with acetic acid and evaporated under vacuum. The residue was washed free of acetic acid by washing an etheral solution with aqueous sodium bicarbonate and water. After drying over magnesium sulfate, the ethereal solution was evaporated under vacuum. The residue was purified by preparative high pressure liquid chromatography on silica gel, eluting with hexane/ethyl acetate (3:1) to give 2'-nitro-1,1'biphenyl-4-carboxaldehyde (620 mg) followed by 4-hydroxymethyl-2'-nitro-1,1'-biphenyl (3.06 g, 13.4 mmol, 54%).

reactant | 4-bromomethyl-2'-nitro-1,1'-biphenyl | 24.8 mmol, 7.27 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C13H10BrNO2
reactant | potassium acetate | 49.1 mmol, 4.88 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 2'-nitro-1,1'biphenyl-4-carboxaldehyde | 620 mg | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C13H9NO3
